US09079911B2
Step D: 5-Fluoro-2-pyrimidin-2-yl-benzoic acid.
To a solution of 5-fluoro-2-pyrimidin-2-ylbenzoic acid methyl ester (1.72 g, 7.407 mmol) in 2-methyl-THF (20 mL) was added sodium hydroxide (0.74 g, 18.517 mmol) and water (20 mL). The mixture was heated to 72° C. and stirred for 2 h. The layers were separated and the aqueous layer was extracted with additional MTBE. A 50% HCl(aq) solution was then dripped into the aqueous layer until a pH of 1 was reached. The resulting solids were filtered to provide the desired product as an off-white solid (1.34 g, 83% yield). 1H NMR (400 MHz, CD3OD): 8.82 (d, J=5.0 Hz, 2H), 7.89 (dd, J=8.6, 5.4 Hz, 1H), 7.53 (dd, J=9.0, 2.7 Hz, 1H), 7.39 (m, 2H).

reactant | 5-fluoro-2-pyrimidin-2-ylbenzoic acid methyl ester | 7.407 mmol, 1.72 g | COC(C1=C(C=CC(=C1)F)C1=NC=CC=N1)=O | C12H9FN2O2
reactant | sodium hydroxide | 18.517 mmol, 0.74 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 5-Fluoro-2-pyrimidin-2-yl-benzoic acid | 1.34 g, 83% yield | FC=1C=CC(=C(C(=O)O)C1)C1=NC=CC=N1 | C11H7FN2O2
